**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:     SMDPower Inductor
* Matchcode:          WE-MAPI
* Library Type:       Pspice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       12/1/2020
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt MAPI_2512_744383240047_0u47 1 2
Rp 1 2 1038.4604951
Cp 1 2 2.9596p
Rs 1 N3 0.03
L1 N3 2 0.39u
.ends MAPI_2512_744383240047_0u47
*******
.subckt MAPI_2512_744383240056_0u56 1 2
Rp 1 2 1377.704037902
Cp 1 2 3.265353363p
Rs 1 N3 0.037
L1 N3 2 0.53u
.ends MAPI_2512_744383240056_0u56
*******
.subckt MAPI_2512_744383240068_0u68 1 2
Rp 1 2 1711.275912736
Cp 1 2 3.4284831524p
Rs 1 N3 0.045
L1 N3 2 0.66u
.ends MAPI_2512_744383240068_0u68
*******
.subckt MAPI_2512_74438324010_1u 1 2
Rp 1 2 2168.089901022
Cp 1 2 3.75836481733333p
Rs 1 N3 0.049
L1 N3 2 0.93u
.ends MAPI_2512_74438324010_1u
*******
.subckt MAPI_2512_74438324012_1u2 1 2
Rp 1 2 2597.705977778
Cp 1 2 3.9005958574p
Rs 1 N3 0.067
L1 N3 2 1.07u
.ends MAPI_2512_74438324012_1u2
*******
.subckt MAPI_2512_74438324015_1u5 1 2
Rp 1 2 3445.783694548
Cp 1 2 4.425720698p
Rs 1 N3 0.082
L1 N3 2 1.54u
.ends MAPI_2512_74438324015_1u5
*******
.subckt MAPI_2512_74438324022_2u2 1 2
Rp 1 2 4211.982563034
Cp 1 2 4.0585787336p
Rs 1 N3 0.123
L1 N3 2 1.87u
.ends MAPI_2512_74438324022_2u2
*******
.subckt MAPI_2512_74438324033_3u3 1 2
Rp 1 2 7042.196136376
Cp 1 2 4.3926298308p
Rs 1 N3 0.226
L1 N3 2 3.25u
.ends MAPI_2512_74438324033_3u3
*******
.subckt MAPI_2512_74438324047_4u7 1 2
Rp 1 2 9138.238352662
Cp 1 2 4.3223636442p
Rs 1 N3 0.3
L1 N3 2 4.48u
.ends MAPI_2512_74438324047_4u7
*******
.subckt MAPI_2512_74438324056_5u6 1 2
Rp 1 2 10933.60876782
Cp 1 2 5.1948829364p
Rs 1 N3 0.405
L1 N3 2 5.69u
.ends MAPI_2512_74438324056_5u6
*******
.subckt MAPI_2512_74438324068_6u8 1 2
Rp 1 2 12309.69262034
Cp 1 2 4.9992358046p
Rs 1 N3 0.56
L1 N3 2 6.69u
.ends MAPI_2512_74438324068_6u8
*******
.subckt MAPI_2512_74438324082_8u2 1 2
Rp 1 2 14021.69415194
Cp 1 2 5.0174407148p
Rs 1 N3 0.63
L1 N3 2 7.88u
.ends MAPI_2512_74438324082_8u2
*******
.subckt MAPI_1610_744383130033_0u33 1 2
Rp 1 2 1175.839
Cp 1 2 1.6355p
Rs 1 N3 0.065
L1 N3 2 0.346u
.ends MAPI_1610_744383130033_0u33
*******
.subckt MAPI_1610_744383130047_0u47 1 2
Rp 1 2 1548.746
Cp 1 2 1.657p
Rs 1 N3 0.077
L1 N3 2 0.52u
.ends MAPI_1610_744383130047_0u47
*******
.subckt MAPI_1610_744383130056_0u56 1 2
Rp 1 2 1864.888
Cp 1 2 1.8707p
Rs 1 N3 0.09
L1 N3 2 0.58u
.ends MAPI_1610_744383130056_0u56
*******
.subckt MAPI_1610_744383130068_0u68 1 2
Rp 1 2 2230.246
Cp 1 2 1.9747p
Rs 1 N3 0.101
L1 N3 2 0.74u
.ends MAPI_1610_744383130068_0u68
*******
.subckt MAPI_1610_744383130082_0u82 1 2
Rp 1 2 2577.813
Cp 1 2 2.153p
Rs 1 N3 0.115
L1 N3 2 0.9u
.ends MAPI_1610_744383130082_0u82
*******
.subckt MAPI_1610_74438313010_1u 1 2
Rp 1 2 3023.53
Cp 1 2 2.1174p
Rs 1 N3 0.127
L1 N3 2 0.99u
.ends MAPI_1610_74438313010_1u
*******
.subckt MAPI_1610_74438313012_1u2 1 2
Rp 1 2 3481.561
Cp 1 2 2.0866p
Rs 1 N3 0.14
L1 N3 2 1.18u
.ends MAPI_1610_74438313012_1u2
*******
.subckt MAPI_1610_74438313015_1u5 1 2
Rp 1 2 4017.414
Cp 1 2 2.5328p
Rs 1 N3 0.189
L1 N3 2 1.46u
.ends MAPI_1610_74438313015_1u5
*******
.subckt MAPI_1610_74438313022_2u2 1 2
Rp 1 2 5651.21
Cp 1 2 2.5307p
Rs 1 N3 0.337
L1 N3 2 2.27u
.ends MAPI_1610_74438313022_2u2
*******
.subckt MAPI_2010_744383430033_0u33 1 2
Rp 1 2 1106.761952154
Cp 1 2 1.8829p
Rs 1 N3 0.04
L1 N3 2 0.32u
.ends MAPI_2010_744383430033_0u33
*******
.subckt MAPI_2010_744383430047_0u47 1 2
Rp 1 2 1457.590564128
Cp 1 2 1.9781p
Rs 1 N3 0.049
L1 N3 2 0.44u
.ends MAPI_2010_744383430047_0u47
*******
.subckt MAPI_2010_744383430056_0u56 1 2
Rp 1 2 2075.350512116
Cp 1 2 2.2551p
Rs 1 N3 0.056
L1 N3 2 0.5u
.ends MAPI_2010_744383430056_0u56
*******
.subckt MAPI_2010_744383430068_0u68 1 2
Rp 1 2 2110.665367845
Cp 1 2 2.1367p
Rs 1 N3 0.065
L1 N3 2 0.65u
.ends MAPI_2010_744383430068_0u68
*******
.subckt MAPI_2010_744383430082_0u82 1 2
Rp 1 2 2321.539322436
Cp 1 2 2.3941p
Rs 1 N3 0.071
L1 N3 2 0.76u
.ends MAPI_2010_744383430082_0u82
*******
.subckt MAPI_2010_74438343010_1u 1 2
Rp 1 2 3024.486229762
Cp 1 2 2.6486p
Rs 1 N3 0.086
L1 N3 2 0.99u
.ends MAPI_2010_74438343010_1u
*******
.subckt MAPI_2010_74438343012_1u2 1 2
Rp 1 2 3525.586090584
Cp 1 2 2.6299p
Rs 1 N3 0.114
L1 N3 2 1.07u
.ends MAPI_2010_74438343012_1u2
*******
.subckt MAPI_2010_74438343015_1u5 1 2
Rp 1 2 4272.400063088
Cp 1 2 2.4725p
Rs 1 N3 0.15
L1 N3 2 1.43u
.ends MAPI_2010_74438343015_1u5
*******
.subckt MAPI_2010_74438343022_2u2 1 2
Rp 1 2 5817.620850408
Cp 1 2 2.7082p
Rs 1 N3 0.225
L1 N3 2 1.92u
.ends MAPI_2010_74438343022_2u2
*******
.subckt MAPI_2506_744383210047_0u47 1 2
Rp 1 2 1358.795
Cp 1 2 2.2013p
Rs 1 N3 0.076
L1 N3 2 0.49u
.ends MAPI_2506_744383210047_0u47
*******
.subckt MAPI_2506_74438321010_1u 1 2
Rp 1 2 2580.266667
Cp 1 2 2.8938p
Rs 1 N3 0.163
L1 N3 2 1.09u
.ends MAPI_2506_74438321010_1u
*******
.subckt MAPI_2508_744383220047_0u47 1 2
Rp 1 2 1328.67
Cp 1 2 2.363p
Rs 1 N3 0.07
L1 N3 2 0.48u
.ends MAPI_2508_744383220047_0u47
*******
.subckt MAPI_2508_74438322010_1u 1 2
Rp 1 2 2287
Cp 1 2 2.785p
Rs 1 N3 0.107
L1 N3 2 0.93u
.ends MAPI_2508_74438322010_1u
*******
.subckt MAPI_2508_74438322022_2u2 1 2
Rp 1 2 5454.6
Cp 1 2 3.2106p
Rs 1 N3 0.252
L1 N3 2 2.4u
.ends MAPI_2508_74438322022_2u2
*******
.subckt MAPI_2510_744383230033_0u33 1 2
Rp 1 2 759.73
Cp 1 2 2.7883p
Rs 1 N3 0.029
L1 N3 2 0.28u
.ends MAPI_2510_744383230033_0u33
*******
.subckt MAPI_2510_744383230047_0u47 1 2
Rp 1 2 807.55
Cp 1 2 2.235p
Rs 1 N3 0.037
L1 N3 2 0.44u
.ends MAPI_2510_744383230047_0u47
*******
.subckt MAPI_2510_744383230068_0u68 1 2
Rp 1 2 1052.9
Cp 1 2 2.5757p
Rs 1 N3 0.046
L1 N3 2 0.62u
.ends MAPI_2510_744383230068_0u68
*******
.subckt MAPI_2510_744383230082_0u82 1 2
Rp 1 2 1712.77
Cp 1 2 3.1837p
Rs 1 N3 0.053
L1 N3 2 0.77u
.ends MAPI_2510_744383230082_0u82
*******
.subckt MAPI_2510_74438323010_1u 1 2
Rp 1 2 2155.33
Cp 1 2 3.992p
Rs 1 N3 0.063
L1 N3 2 1.01u
.ends MAPI_2510_74438323010_1u
*******
.subckt MAPI_2510_74438323012_1u2 1 2
Rp 1 2 2888.67
Cp 1 2 3.3837p
Rs 1 N3 0.082
L1 N3 2 1.2u
.ends MAPI_2510_74438323012_1u2
*******
.subckt MAPI_2510_74438323015_1u5 1 2
Rp 1 2 3356.67
Cp 1 2 3.701p
Rs 1 N3 0.092
L1 N3 2 1.41u
.ends MAPI_2510_74438323015_1u5
*******
.subckt MAPI_2510_74438323022_2u2 1 2
Rp 1 2 2863
Cp 1 2 2.6337p
Rs 1 N3 0.147
L1 N3 2 2.3u
.ends MAPI_2510_74438323022_2u2
*******
.subckt MAPI_2510_74438323033_3u3 1 2
Rp 1 2 5818.67
Cp 1 2 3.66p
Rs 1 N3 0.22
L1 N3 2 3.01u
.ends MAPI_2510_74438323033_3u3
*******
.subckt MAPI_2510_74438323047_4u7 1 2
Rp 1 2 8723.67
Cp 1 2 4.5563p
Rs 1 N3 0.338
L1 N3 2 4.61u
.ends MAPI_2510_74438323047_4u7
*******
.subckt MAPI_2510_74438323068_6u8 1 2
Rp 1 2 12938.33
Cp 1 2 3.9087p
Rs 1 N3 0.563
L1 N3 2 6.51u
.ends MAPI_2510_74438323068_6u8
*******
.subckt MAPI_2510_74438323082_8u2 1 2
Rp 1 2 14641.63
Cp 1 2 4.4293p
Rs 1 N3 0.646
L1 N3 2 8.12u
.ends MAPI_2510_74438323082_8u2
*******
.subckt MAPI_2510_74438323100_10u 1 2
Rp 1 2 17001.67
Cp 1 2 4.3877p
Rs 1 N3 0.733
L1 N3 2 9.66u
.ends MAPI_2510_74438323100_10u
*******
.subckt MAPI_2512_74438324100_10u 1 2
Rp 1 2 13964.0031297
Cp 1 2 4.94140041425p
Rs 1 N3 0.68
L1 N3 2 8.13u
.ends MAPI_2512_74438324100_10u
*******
.subckt MAPI_3010_74438333022_2u2 1 2
Rp 1 2 5803.666667
Cp 1 2 4.724p
Rs 1 N3 0.15
L1 N3 2 2.1u
.ends MAPI_3010_74438333022_2u2
*******
.subckt MAPI_3010_74438333033_3u3 1 2
Rp 1 2 8309.333333
Cp 1 2 5.34966666666667p
Rs 1 N3 0.232
L1 N3 2 3.09u
.ends MAPI_3010_74438333033_3u3
*******
.subckt MAPI_3010_74438333047_4u7 1 2
Rp 1 2 8564.333333
Cp 1 2 5.27933333333333p
Rs 1 N3 0.356
L1 N3 2 4.45u
.ends MAPI_3010_74438333047_4u7
*******
.subckt MAPI_3012_744383340033_0u33 1 2
Rp 1 2 821.2233333
Cp 1 2 4.27333333333333p
Rs 1 N3 0.019
L1 N3 2 0.29u
.ends MAPI_3012_744383340033_0u33
*******
.subckt MAPI_3012_744383340047_0u47 1 2
Rp 1 2 1173.333333
Cp 1 2 4.55666666666667p
Rs 1 N3 0.022
L1 N3 2 0.4u
.ends MAPI_3012_744383340047_0u47
*******
.subckt MAPI_3012_744383340056_0u56 1 2
Rp 1 2 1565
Cp 1 2 3.79066666666667p
Rs 1 N3 0.029
L1 N3 2 0.57u
.ends MAPI_3012_744383340056_0u56
*******
.subckt MAPI_3012_744383340068_0u68 1 2
Rp 1 2 1736.666667
Cp 1 2 3.80966666666667p
Rs 1 N3 0.036
L1 N3 2 0.65u
.ends MAPI_3012_744383340068_0u68
*******
.subckt MAPI_3012_74438334010_1u 1 2
Rp 1 2 2542.333333
Cp 1 2 4.17533333333333p
Rs 1 N3 0.0421
L1 N3 2 1.08u
.ends MAPI_3012_74438334010_1u
*******
.subckt MAPI_3012_74438334012_1u2 1 2
Rp 1 2 3020.5
Cp 1 2 4.95453333333333p
Rs 1 N3 0.055
L1 N3 2 1.22u
.ends MAPI_3012_74438334012_1u2
*******
.subckt MAPI_3012_74438334015_1u5 1 2
Rp 1 2 3865
Cp 1 2 4.74866666666667p
Rs 1 N3 0.08
L1 N3 2 1.5u
.ends MAPI_3012_74438334015_1u5
*******
.subckt MAPI_3012_74438334022_2u2 1 2
Rp 1 2 4887.666667
Cp 1 2 5.10166666666667p
Rs 1 N3 0.1
L1 N3 2 2.04u
.ends MAPI_3012_74438334022_2u2
*******
.subckt MAPI_3012_74438334033_3u3 1 2
Rp 1 2 7481
Cp 1 2 6.07033333333333p
Rs 1 N3 0.1563
L1 N3 2 3.26u
.ends MAPI_3012_74438334033_3u3
*******
.subckt MAPI_3012_74438334047_4u7 1 2
Rp 1 2 9053.666667
Cp 1 2 5.97833333333333p
Rs 1 N3 0.2677
L1 N3 2 4.38u
.ends MAPI_3012_74438334047_4u7
*******
.subckt MAPI_3012_74438334056_5u6 1 2
Rp 1 2 10141
Cp 1 2 5.743p
Rs 1 N3 0.3383
L1 N3 2 5.5u
.ends MAPI_3012_74438334056_5u6
*******
.subckt MAPI_3012_74438334068_6u8 1 2
Rp 1 2 11556.33333
Cp 1 2 6.09933333333333p
Rs 1 N3 0.3682
L1 N3 2 5.99u
.ends MAPI_3012_74438334068_6u8
*******
.subckt MAPI_3015_744383350047_0u47 1 2
Rp 1 2 1058.19523333333
Cp 1 2 4.85417386666667p
Rs 1 N3 0.02
L1 N3 2 0.45u
.ends MAPI_3015_744383350047_0u47
*******
.subckt MAPI_3015_744383350068_0u68 1 2
Rp 1 2 1639.15646368427
Cp 1 2 4.395p
Rs 1 N3 0.025
L1 N3 2 0.51u
.ends MAPI_3015_744383350068_0u68
*******
.subckt MAPI_3015_744383350082_0u82 1 2
Rp 1 2 2232.88336666667
Cp 1 2 4.5684805p
Rs 1 N3 0.03
L1 N3 2 0.75u
.ends MAPI_3015_744383350082_0u82
*******
.subckt MAPI_3015_74438335010_1u 1 2
Rp 1 2 2039.333333
Cp 1 2 4.95603333333333p
Rs 1 N3 0.039
L1 N3 2 1.02u
.ends MAPI_3015_74438335010_1u
*******
.subckt MAPI_3015_74438335022_2u2 1 2
Rp 1 2 4443
Cp 1 2 5.69266666666667p
Rs 1 N3 0.094
L1 N3 2 1.98u
.ends MAPI_3015_74438335022_2u2
*******
.subckt MAPI_3015_74438335033_3u3 1 2
Rp 1 2 6061
Cp 1 2 6.48433333333333p
Rs 1 N3 0.114
L1 N3 2 3.13u
.ends MAPI_3015_74438335033_3u3
*******
.subckt MAPI_3015_74438335047_4u7 1 2
Rp 1 2 8005.666667
Cp 1 2 6.65533333333333p
Rs 1 N3 0.141
L1 N3 2 4.26u
.ends MAPI_3015_74438335047_4u7
*******
.subckt MAPI_3015_74438335068_6u8 1 2
Rp 1 2 10791.66667
Cp 1 2 7.02333333333333p
Rs 1 N3 0.25
L1 N3 2 6.25u
.ends MAPI_3015_74438335068_6u8
*******
.subckt MAPI_3015_74438335100_10u 1 2
Rp 1 2 15109.66667
Cp 1 2 6.18366666666667p
Rs 1 N3 0.446
L1 N3 2 9.46u
.ends MAPI_3015_74438335100_10u
*******
.subckt MAPI_3015_74438335150_15u 1 2
Rp 1 2 21284.66667
Cp 1 2 5.87033333333333p
Rs 1 N3 0.72
L1 N3 2 14.1u
.ends MAPI_3015_74438335150_15u
*******
.subckt MAPI_3015_74438335220_22u 1 2
Rp 1 2 29029
Cp 1 2 6.34333333333333p
Rs 1 N3 0.94
L1 N3 2 19.78u
.ends MAPI_3015_74438335220_22u
*******
.subckt MAPI_3015_74438335330_33u 1 2
Rp 1 2 33248.33333
Cp 1 2 6.99333333333333p
Rs 1 N3 1.21
L1 N3 2 29.66u
.ends MAPI_3015_74438335330_33u
*******
.subckt MAPI_3015_74438335470_47u 1 2
Rp 1 2 42066.66667
Cp 1 2 7.59833333333333p
Rs 1 N3 2.09
L1 N3 2 46.1u
.ends MAPI_3015_74438335470_47u
*******
.subckt MAPI_3020_744383360033_0u33 1 2
Rp 1 2 725.017800117
Cp 1 2 4.2139562698p
Rs 1 N3 0.014
L1 N3 2 0.31u
.ends MAPI_3020_744383360033_0u33
*******
.subckt MAPI_3020_744383360047_0u47 1 2
Rp 1 2 1054.617100708
Cp 1 2 5.3828993388p
Rs 1 N3 0.018
L1 N3 2 0.46u
.ends MAPI_3020_744383360047_0u47
*******
.subckt MAPI_3020_744383360068_0u68 1 2
Rp 1 2 1402.486795318
Cp 1 2 5.6011470144p
Rs 1 N3 0.022
L1 N3 2 0.65u
.ends MAPI_3020_744383360068_0u68
*******
.subckt MAPI_3020_74438336010_1u 1 2
Rp 1 2 1905.123596372
Cp 1 2 5.8797906294p
Rs 1 N3 0.026
L1 N3 2 0.95u
.ends MAPI_3020_74438336010_1u
*******
.subckt MAPI_3020_74438336012_1u2 1 2
Rp 1 2 2327.00997736
Cp 1 2 6.4008161236p
Rs 1 N3 0.03
L1 N3 2 1.18u
.ends MAPI_3020_74438336012_1u2
*******
.subckt MAPI_3020_74438336015_1u5 1 2
Rp 1 2 2879.288208634
Cp 1 2 6.5500806518p
Rs 1 N3 0.033
L1 N3 2 1.46u
.ends MAPI_3020_74438336015_1u5
*******
.subckt MAPI_3020_74438336022_2u2 1 2
Rp 1 2 4907.58956685
Cp 1 2 6.44236118p
Rs 1 N3 0.067
L1 N3 2 2.22u
.ends MAPI_3020_74438336022_2u2
*******
.subckt MAPI_3020_74438336033_3u3 1 2
Rp 1 2 6097.32637741
Cp 1 2 5.7471916388p
Rs 1 N3 0.099
L1 N3 2 2.92u
.ends MAPI_3020_74438336033_3u3
*******
.subckt MAPI_3020_74438336047_4u7 1 2
Rp 1 2 8959.521080854
Cp 1 2 6.4455729074p
Rs 1 N3 0.137
L1 N3 2 4.52u
.ends MAPI_3020_74438336047_4u7
*******
.subckt MAPI_3020_74438336068_6u8 1 2
Rp 1 2 9175.279119816
Cp 1 2 8.1999260564p
Rs 1 N3 0.168
L1 N3 2 6.23u
.ends MAPI_3020_74438336068_6u8
*******
.subckt MAPI_3020_74438336100_10u 1 2
Rp 1 2 14215.45725152
Cp 1 2 8.016436544p
Rs 1 N3 0.28
L1 N3 2 9.07u
.ends MAPI_3020_74438336100_10u
*******
.subckt MAPI_4020_744383560033_0u33 1 2
Rp 1 2 710.000896513
Cp 1 2 5.6590796296p
Rs 1 N3 0.006
L1 N3 2 0.32u
.ends MAPI_4020_744383560033_0u33
*******
.subckt MAPI_4020_744383560056_0u56 1 2
Rp 1 2 1083.906744055
Cp 1 2 6.9156720806p
Rs 1 N3 0.007
L1 N3 2 0.49u
.ends MAPI_4020_744383560056_0u56
*******
.subckt MAPI_4020_744383560068_0u68 1 2
Rp 1 2 1345.97001505
Cp 1 2 7.1451286218p
Rs 1 N3 0.0075
L1 N3 2 0.63u
.ends MAPI_4020_744383560068_0u68
*******
.subckt MAPI_4020_74438356010_1u 1 2
Rp 1 2 2216.19840284
Cp 1 2 8.1165817714p
Rs 1 N3 0.012
L1 N3 2 1.01u
.ends MAPI_4020_74438356010_1u
*******
.subckt MAPI_4020_74438356012_1u2 1 2
Rp 1 2 2461.7312777325
Cp 1 2 7.5883816538p
Rs 1 N3 0.015
L1 N3 2 1.15u
.ends MAPI_4020_74438356012_1u2
*******
.subckt MAPI_4020_74438356015_1u5 1 2
Rp 1 2 2825.87134609
Cp 1 2 8.1385586862p
Rs 1 N3 0.016
L1 N3 2 1.38u
.ends MAPI_4020_74438356015_1u5
*******
.subckt MAPI_4020_74438356018_1u8 1 2
Rp 1 2 3380.914848105
Cp 1 2 9.0484679884p
Rs 1 N3 0.0245
L1 N3 2 1.79u
.ends MAPI_4020_74438356018_1u8
*******
.subckt MAPI_4020_74438356022_2u2 1 2
Rp 1 2 4123.86235634
Cp 1 2 9.7152950084p
Rs 1 N3 0.029
L1 N3 2 2.18u
.ends MAPI_4020_74438356022_2u2
*******
.subckt MAPI_4020_74438356033_3u3 1 2
Rp 1 2 5467.852811445
Cp 1 2 12.3361832892p
Rs 1 N3 0.0399
L1 N3 2 3.18u
.ends MAPI_4020_74438356033_3u3
*******
.subckt MAPI_4020_74438356047_4u7 1 2
Rp 1 2 7737.2732555125
Cp 1 2 11.1535766864p
Rs 1 N3 0.063
L1 N3 2 4.67u
.ends MAPI_4020_74438356047_4u7
*******
.subckt MAPI_4020_74438356056_5u6 1 2
Rp 1 2 8142.49710321
Cp 1 2 11.5659852048p
Rs 1 N3 0.068
L1 N3 2 5.17u
.ends MAPI_4020_74438356056_5u6
*******
.subckt MAPI_4020_74438356150_15u 1 2
Rp 1 2 14200
Cp 1 2 9.62p
Rs 1 N3 0.2
L1 N3 2 14.1u
.ends MAPI_4020_74438356150_15u
*******
.subckt MAPI_4020_74438356220_22u 1 2
Rp 1 2 22800
Cp 1 2 10.4p
Rs 1 N3 0.25
L1 N3 2 20.5u
.ends MAPI_4020_74438356220_22u
*******
.subckt MAPI_4030_74438357010_1u 1 2
Rp 1 2 2195
Cp 1 2 7.039p
Rs 1 N3 0.0116
L1 N3 2 0.95u
.ends MAPI_4030_74438357010_1u
*******
.subckt MAPI_4030_74438357012_1u2 1 2
Rp 1 2 2666
Cp 1 2 7.978933146p
Rs 1 N3 0.0134
L1 N3 2 1.22u
.ends MAPI_4030_74438357012_1u2
*******
.subckt MAPI_4030_74438357015_1u5 1 2
Rp 1 2 3039
Cp 1 2 7.847855157p
Rs 1 N3 0.0171
L1 N3 2 1.37u
.ends MAPI_4030_74438357015_1u5
*******
.subckt MAPI_4030_74438357018_1u8 1 2
Rp 1 2 3649
Cp 1 2 8.081p
Rs 1 N3 0.018
L1 N3 2 1.7u
.ends MAPI_4030_74438357018_1u8
*******
.subckt MAPI_4030_74438357022_2u2 1 2
Rp 1 2 4556
Cp 1 2 9.489572495p
Rs 1 N3 0.022
L1 N3 2 2.11u
.ends MAPI_4030_74438357022_2u2
*******
.subckt MAPI_4030_74438357047_4u7 1 2
Rp 1 2 8253
Cp 1 2 10.011598369p
Rs 1 N3 0.0399
L1 N3 2 4.22u
.ends MAPI_4030_74438357047_4u7
*******
.subckt MAPI_4030_74438357056_5u6 1 2
Rp 1 2 9277
Cp 1 2 11.153505232p
Rs 1 N3 0.0465
L1 N3 2 5.7u
.ends MAPI_4030_74438357056_5u6
*******
.subckt MAPI_4030_74438357068_6u8 1 2
Rp 1 2 11078
Cp 1 2 10p
Rs 1 N3 0.0694
L1 N3 2 6.45u
.ends MAPI_4030_74438357068_6u8
*******
.subckt MAPI_4030_74438357082_8u2 1 2
Rp 1 2 12230
Cp 1 2 11.388p
Rs 1 N3 0.081
L1 N3 2 7.76u
.ends MAPI_4030_74438357082_8u2
*******
.subckt MAPI_4030_74438357100_10u 1 2
Rp 1 2 13721
Cp 1 2 11.841p
Rs 1 N3 0.1008
L1 N3 2 9.47u
.ends MAPI_4030_74438357100_10u
*******
.subckt MAPI_4030_74438357033_3u3 1 2
Rp 1 2 4556
Cp 1 2 12.5p
Rs 1 N3 0.0335
L1 N3 2 3.3u
.ends MAPI_4030_74438357033_3u3
*******
.subckt MAPI_4020HT_74438356010HT_1u 1 2
Rp 1 2 2216.19840284
Cp 1 2 12.9p
Rs 1 N3 0.0155
L1 N3 2 1u
.ends MAPI_4020HT_74438356010HT_1u
*******
.subckt MAPI_4020HT_74438356012HT_1u2 1 2
Rp 1 2 2600.19840284
Cp 1 2 12p
Rs 1 N3 0.0184
L1 N3 2 1.2u
.ends MAPI_4020HT_74438356012HT_1u2
*******
.subckt MAPI_4020HT_74438356015HT_1u5 1 2
Rp 1 2 2900.19840284
Cp 1 2 11p
Rs 1 N3 0.0207
L1 N3 2 1.5u
.ends MAPI_4020HT_74438356015HT_1u5
*******
.subckt MAPI_4020HT_74438356018HT_1u8 1 2
Rp 1 2 3750.19840284
Cp 1 2 10.6p
Rs 1 N3 0.0299
L1 N3 2 1.8u
.ends MAPI_4020HT_74438356018HT_1u8
*******
.subckt MAPI_4020HT_74438356022HT_2u2 1 2
Rp 1 2 4100.19840284
Cp 1 2 13p
Rs 1 N3 0.0322
L1 N3 2 2.2u
.ends MAPI_4020HT_74438356022HT_2u2
*******
.subckt MAPI_4020HT_74438356033HT_3u3 1 2
Rp 1 2 5950.19840284
Cp 1 2 12p
Rs 1 N3 0.0518
L1 N3 2 3.35u
.ends MAPI_4020HT_74438356033HT_3u3
*******
.subckt MAPI_4020HT_74438356047HT_4u7 1 2
Rp 1 2 6950.19840284
Cp 1 2 16.9p
Rs 1 N3 0.0748
L1 N3 2 4.7u
.ends MAPI_4020HT_74438356047HT_4u7
*******
.subckt MAPI_4020HT_74438356056HT_5u6 1 2
Rp 1 2 7800.19840284
Cp 1 2 15.5p
Rs 1 N3 0.08.5
L1 N3 2 5.7u
.ends MAPI_4020HT_74438356056HT_5u6
*******
.subckt MAPI_4020HT_744383560033HT_0u33 1 2
Rp 1 2 730.19840284
Cp 1 2 8.9p
Rs 1 N3 0.0075
L1 N3 2 0.33u
.ends MAPI_4020HT_744383560033HT_0u33
*******
.subckt MAPI_4020HT_744383560047HT_0u47 1 2
Rp 1 2 950.19840284
Cp 1 2 8.85p
Rs 1 N3 0.0081
L1 N3 2 0.47u
.ends MAPI_4020HT_744383560047HT_0u47
*******
.subckt MAPI_4020HT_744383560056HT_0u56 1 2
Rp 1 2 1300.19840284
Cp 1 2 8.85p
Rs 1 N3 0.0086
L1 N3 2 0.56u
.ends MAPI_4020HT_744383560056HT_0u56
*******
.subckt MAPI_4020HT_744383560068HT_0u68 1 2
Rp 1 2 1300.19840284
Cp 1 2 8.85p
Rs 1 N3 0.0092
L1 N3 2 0.68u
.ends MAPI_4020HT_744383560068HT_0u68
*******
.subckt MAPI_5020_74438366010_1u 1 2
Rp 1 2 2000.19840284
Cp 1 2 10p
Rs 1 N3 0.01
L1 N3 2 1u
.ends MAPI_5020_74438366010_1u
*******
.subckt MAPI_5020_74438366015_1u5 1 2
Rp 1 2 2400.19840284
Cp 1 2 13p
Rs 1 N3 0.0185
L1 N3 2 1.5u
.ends MAPI_5020_74438366015_1u5
*******
.subckt MAPI_5020_74438366022_2u2 1 2
Rp 1 2 3200.19840284
Cp 1 2 12p
Rs 1 N3 0.0237
L1 N3 2 2u
.ends MAPI_5020_74438366022_2u2
*******
.subckt MAPI_5020_74438366033_3u3 1 2
Rp 1 2 4500.19840284
Cp 1 2 14p
Rs 1 N3 0.0334
L1 N3 2 3.3u
.ends MAPI_5020_74438366033_3u3
*******
.subckt MAPI_5020_74438366047_4u7 1 2
Rp 1 2 5200.19840284
Cp 1 2 14p
Rs 1 N3 0.0548
L1 N3 2 4.6u
.ends MAPI_5020_74438366047_4u7
*******
.subckt MAPI_5020_744383660082_0u82 1 2
Rp 1 2 1450.19840284
Cp 1 2 11p
Rs 1 N3 0.008
L1 N3 2 0.8u
.ends MAPI_5020_74438366082_0u82
*******
.subckt MAPI_5030_74438367010_1u 1 2
Rp 1 2 1900.19840284
Cp 1 2 12p
Rs 1 N3 0.035
L1 N3 2 1.1u
.ends MAPI_5030_74438367010_1u
*******
.subckt MAPI_5030_74438367022_2u2 1 2
Rp 1 2 3200.19840284
Cp 1 2 15p
Rs 1 N3 0.0237
L1 N3 2 2.2u
.ends MAPI_5030_74438367022_2u2
*******
.subckt MAPI_5030_74438367033_3u3 1 2
Rp 1 2 4500.19840284
Cp 1 2 15p
Rs 1 N3 0.0334
L1 N3 2 3.3u
.ends MAPI_5030_74438367033_3u3
*******
.subckt MAPI_5030_74438367047_4u7 1 2
Rp 1 2 6000.19840284
Cp 1 2 16p
Rs 1 N3 0.0548
L1 N3 2 4.6u
.ends MAPI_5030_74438367047_4u7
*******
.subckt MAPI_5030_74438367082_8u2 1 2
Rp 1 2 7600.19840284
Cp 1 2 17p
Rs 1 N3 0.075
L1 N3 2 8.6u
.ends MAPI_5030_74438367082_8u2
*******
.subckt MAPI_5030_74438367068_6u8 1 2
Rp 1 2 7062
Cp 1 2 15.98p
Rs 1 N3 0.042
L1 N3 2 6.6u
.ends MAPI_5030_74438367068_6u8
**********
.subckt MAPI_5030_74438367100_10u 1 2
Rp 1 2 7290
Cp 1 2 15.66p
Rs 1 N3 0.061
L1 N3 2 9.56u
.ends MAPI_5030_74438367100_10u